US05102881
Step I 1-(4-Hydroxyphenyl)-3-phenyl-1-propanol
To a solution of p-hydroxybenzaldehyde (1.50 g) in THF (30 mL) was added dropwise a solution of 2-phenylethyl magnesium bromide in ether (15.2 mL, 1.7M) at 0°. After being stirred overnight at room temperature (RT) using a mechanical stirrer, it was poured onto a buffer (pH 7), extracted with ethyl acetate and the organic phase was dried and evaporated. The title compound was obtained after crystallization from ethyl acetate/hexane and was used directly in the next step.

reactant | p-hydroxybenzaldehyde | 1.50 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | 2-phenylethyl magnesium bromide | C1(=CC=CC=C1)CC[Mg]Br
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | ether | 1.7M, 15.2 mL | CCOCC | C4H10O
product | 1-(4-Hydroxyphenyl)-3-phenyl-1-propanol | OC1=CC=C(C=C1)C(CCC1=CC=CC=C1)O | C15H16O2
